US05025007
1-Allyloxycarbonyloxymethyl-3-methylcarbonyl-9-fluorenone
1-Hydroxymethyl-3-methylcarbonyl-9-fluorenone (135 mg) was dissolved in THF (4 ml), cooled to 0° C. under N2. Pyridine (51 μl, 1.2 eq) was added followed by allyloxycarbonyl chloride (70 μl, 1.2 eq). The reaction mixture was allowed to stir overnight allowing it to come to room temperature. The reaction mixture was diluted with methylene chloride, washed with water, sat'd NaCl solution, dried and evaporated. The product was purified by preparative tlc (80 mg).

reactant | 1-Hydroxymethyl-3-methylcarbonyl-9-fluorenone | 135 mg | OCC1=CC(=CC=2C3=CC=CC=C3C(C12)=O)C(=O)C | C16H12O3
reactant | Pyridine | 51 μl, 1.2 eq | N1=CC=CC=C1 | C5H5N
reactant | allyloxycarbonyl chloride | 70 μl, 1.2 eq | C(C=C)OC(=O)Cl | C4H5ClO2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Allyloxycarbonyloxymethyl-3-methylcarbonyl-9-fluorenone | C(C=C)OC(=O)OCC1=CC(=CC=2C3=CC=CC=C3C(C12)=O)C(=O)C | C20H16O5
